US06541470B1
1-Ethyl-2-(2-furyl)-6-isopropyl-1,4-dihydro-4-oxoquinoline (Compound A304)
To a 1.6M solution of n-butyl lithium in hexane (1,38 mL, 2,2 mmol) was added tetramethylethylenediamine (0.3 mL, 2,2 mmol) under argon atmosphere at room temperature with stirring. Then 2-acetylfuran (242 mg, 2,2 mmol) in anhydrous THF was added dropwise to the mixture under ice cooling followed by stirring for 1 hour. To this mixture was added 1-ethyl-6-isopropylisatoic anhydride (250 mg, 1.1 mmol) in anhydrous THF. After stirring at room temperature overnight, the reaction mixture was diluted with saturated aqueous solution of ammonium chloride. The resulting organic layer was separated and concentrated under reduced pressure. The residue was dissolved in ethyl acetate and then washed with saturated sodium chloride solution followed by drying with sodium sulfate. After removing ethyl acetate by evaporation in vacuo, the residue was subjected to preparative TLC(n-hexane:ethyl acetate=2:1) to separate the title compound followed by crystallization from diethyl ether. 1H-NMR(CDCl3) δ1.33(6H,d,CH(CH3)2), 1.55(3H,t,CH2CH3), 3.08(1H,septet,CH), 4.17(2H,q,NCH2), 6.48(1H,s,H-3), 6.56-6.58(1H,m,furan H-4′), 6.76(1H,dd,furan H-5′), 7.54(1H,d,H-8), 7.59(1H,dd,H-7), 7.63(1H,dd,furan H-3′), 8.34(1H,d,H-5)

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 2,2 mmol, 1,38 mL | CCCCCC | C6H14
reactant | tetramethylethylenediamine | 2,2 mmol, 0.3 mL | CN(CCN(C)C)C | C6H16N2
reactant | 2-acetylfuran | 2,2 mmol, 242 mg | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | 1-ethyl-6-isopropylisatoic anhydride | 1.1 mmol, 250 mg | C(C)C12C(=O)OC(NC1C=CC=C2C(C)C)=O | C13H17NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-Ethyl-2-(2-furyl)-6-isopropyl-1,4-dihydro-4-oxoquinoline | C(C)N1C(=CC(C2=CC(=CC=C12)C(C)C)=O)C=1OC=CC1 | C18H19NO2
